Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with no significant personal history, but +family history 
of cardiac disease including ___ in mom, SCD due to "embolism" 
in maternal cousin, and "3 blood clots" in maternal uncle, who 
presents with syncope.
He reports feeling "off" this morning and last night.  He says 
he has had decreased PO intake for several days.  Today he was 
at ___ for girlfriend's orthopedics appointment.  
He reports "getting squeamish" while hearing the details of her 
knee problems.  He gets similar squeamishness when getting blood 
drawn.  He then felt "it" coming on and said "I'm not feeling 
well."  He was told he looked pale, and he felt mildly 
nauseated.  His girlfriend reports he was shaking and then 
passed out around 1:45 or 2pm. He was in the chair, no fall.  
Within a minute, he came to.  He felt very weak after and had 
trouble moving his legs.  He felt "like a noodle."  He had no 
chest pain or SOB. He laid down in a bed, drank water and juice. 
 Reports that nurses checked BP and it was low. Ambulance was 
called he was brought to ED.
He says he has prior similar episodes - last episode was one 
year ago, but 4 episodes in last ___ years, and total of about 10 
episodes.  His prior episodes were similar to this episode in 
that they all involved a prodrome.  This episode was different 
in that he was "out" for a longer period of time, and he felt 
much weaker this time.  He hasn't had much workup for these 
episodes.
Denies h/o seizures or family history of seizures. Reports 
cousin passed away suddenly on mom's side in the middle of the 
night suddenly - he believes it was an "embolism". Reports mom 
had heart murmur and ___.  Said his uncle on Mom's side had 
"3" blood clots.
Regarding his diet, he reports generally eating one big meal per 
day, at night.  During the day, "sometimes" he will eat a 
granola bar or an apple.  Today, he had breakfast only.  He does 
report a history of being cranky or agitated if he doesn't eat.
 
In the ED, initial vitals were:  
97.5, HR 42, BP 93/50, RR 15, 100% RA
Labs showed:  K 2.9, Glucose 59, WBC 11.7 with 80% N's. Tox 
screen negative.  Mg/Ca/Phos/Trop/LFT's were not added on until 
after pt arrived to floor, but showed Mg 1.2, Ca 5.8, Alb 3.0, 
Phos 1.9.
Imaging showed:  CXR without acute process
Received:  Nothing
Cardiology was consulted and recommended admission to ___, 
Tele, TTE.
Decision was made to admit to ___ for further management. 
Review of systems:  
(+) Per HPI  
(-) 10 point ROS reviewed and negative unless stated in HPI
 
Past Medical History:
None
 
Social History:
___
Family History:
Mother - ___
Maternal Cousin - ___ sudden death
Maternal Uncle - ___ clot" x3
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vital Signs:  Temp 97.7, HR 41, 98/54, RR 18, 100% RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MM dry, oropharynx clear, EOMI, PERRL, 
neck supple, no JVD
CV:  Regular, brady, no murmur
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact grossly, grossly normal sensation

DISCHARGE PHYSICAL
Vitals: 97.4 95-98/55 46 18 97RA
I/Os: ___ ___/-
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MM dry, oropharynx clear, EOMI, PERRL, 
neck supple, no JVD
CV:  Regular, bradycardic, no murmur, rubs, gallops.
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact grossly, grossly normal sensation
 
Pertinent Results:
ADMISSION LABS:
___ 05:20PM BLOOD WBC-11.7* RBC-4.69 Hgb-14.0 Hct-41.8 
MCV-89 MCH-29.9 MCHC-33.5 RDW-12.6 RDWSD-41.3 Plt ___
___ 05:20PM BLOOD Neuts-80.0* Lymphs-15.0* Monos-3.8* 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-9.37* AbsLymp-1.75 
AbsMono-0.44 AbsEos-0.07 AbsBaso-0.03
___ 05:20PM BLOOD Plt ___
___ 06:23AM BLOOD ___ PTT-27.7 ___
___ 05:20PM BLOOD Glucose-59* UreaN-13 Creat-0.5 Na-140 
K-2.9* Cl-113* HCO3-18* AnGap-12
___ 05:20PM BLOOD ALT-13 AST-25 CK(CPK)-116 AlkPhos-52 
TotBili-0.4
___ 05:20PM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:20PM BLOOD Albumin-3.0* Calcium-5.8* Phos-1.9* 
Mg-1.2*
___ 10:47PM BLOOD %HbA1c-5.1 eAG-100
___ 05:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:17PM URINE Color-Straw Appear-Clear Sp ___
___ 07:17PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 07:17PM URINE RBC-<1 WBC-1 Bacteri-FEW Yeast-NONE Epi-0
___ 07:17PM URINE Hours-RANDOM Creat-67 Na-116 K-58 
Phos-35.8 Mg-9.2
___ 07:17PM URINE Osmolal-547
___ 07:17PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS:
___ 06:23AM BLOOD WBC-6.6 RBC-4.32* Hgb-13.2* Hct-39.0* 
MCV-90 MCH-30.6 MCHC-33.8 RDW-12.9 RDWSD-42.6 Plt ___
___ 06:23AM BLOOD Plt ___
___ 06:23AM BLOOD ___ PTT-27.7 ___
___ 12:35PM BLOOD Glucose-95 UreaN-13 Creat-0.8 Na-139 
K-4.1 Cl-103 HCO3-23 AnGap-17
___ 12:35PM BLOOD Calcium-9.3 Phos-3.4 Mg-2.2

DIAGNOSTICS:
___ ECG:
Sinus bradycardia. No previous tracing available for comparison.
RatePRQRSQT     QTc (___)  PQRST
45       ___             ___

___ Echocardiography:
Conclusions
The left atrium is normal in size. The left atrial volume index 
is normal. No atrial septal defect is seen by 2D or color 
Doppler. The estimated right atrial pressure is ___ mmHg. Normal 
left ventricular wall thickness, cavity size, and 
regional/global systolic function (biplane LVEF = XX %). 
Transmitral and tissue Doppler imaging suggests normal diastolic 
function, and a normal left ventricular filling pressure 
(PCWP<12mmHg). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. There is no pericardial 
effusion. 

IMPRESSION: Normal study. Normal biventricular cavity sizes with 
preserved regional and global biventricular systolic function. 
No structural heart disease or pathologic flow identified.

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data. 
 
Brief Hospital Course:
___ M with no significant personal history, but with a positive 
family history of cardiac disease including ___ in mom, sudden 
cardiac death due to "embolism" in maternal cousin, and "3 blood 
clots" in maternal uncle, who presented with recurrent episodes 
of syncope.

#Syncope
Patient endorsed an impressive history of recurrent episodes of 
syncope, estimated as ~20 or more in total over the past several 
years, with his last prior episode approximately ___ year prior to 
the episode that brought him to the hospital. He noted 
presyncopal symptoms following hearing a description of a 
gruesome orthopedic injury in an outpatient office with his 
girlfriend, endorsing a "woozy" feeling before passing out 
without headstrike. His girlfriend stated he was unconscious and 
unresponsive to face slaps. He woke after a few moments with a 
feeling of listlessness, feeling better after a few minutes and 
drinking water/juice. He denied palpitations, chest pain, or 
shortness of breath. He endorsed a family history of sudden 
cardiac death, including a maternal cousin who died from a 
"massive clot that went to her heart" at age ___, as well as 
another maternal family member with a least 3 known blood clots. 
His EKG was reviewed, demonstrating no marked abnormalities. 
Troponin was negative. He did not demonstrate orthostatic 
changes in his vital signs. He had no concerning arrhythmias on 
telemetry and was asymptomatic the following day. Although he 
had some electrolyte abnormalities that were repleted, history 
and workup seemed overwhelmingly suggestive of vasovagal 
syncope. He was set up with electrophysiology follow-up and will 
be mailed ___ of Hearts for further outpatient monitoring.
 
# Low electrolytes:  
Patient presented with notably an impressive electrolyte 
abnormalities on presentation, including Mg 1.2, Ca 5.8, Phos 
1.9, K 2.9 regarding which he stated his eating schedule was 
often erratic due to the stress of preparing his teaching 
lessons. His electrolytes were repleted and were stable at the 
time of discharge.

# Leukocytosis: Patient presented with WBC 11.7 with 80% N's.  
This was thought to be secondary to a temporary stress response, 
as it showed signs of improvement closer to discharge. Patient 
had no infectious symptoms, no sign of infection on UA or CXR, 
and no fever.

========================
TRANSITIONAL ISSUES:
========================
- Patient was instructed to register at ___ with his PCP. After 
that, he will call Dr. ___ office to set ___ of hearts 
and appointment with Dr. ___. 
- Patient should set up a PCP appointment within 2 weeks of 
discharge. He should have repeat CHEM 10 checked at that time to 
monitor for low K, Mg, Phos levels. 
- patient will be mailed ___ of Hearts monitor through ___
- patient was discharged on a multivitamin. Magnesium and 
potassium repletion was not prescribed as improved with 
supplementation. He needs repeat CHEM 10 at PCP follow up, 
within 2 weeks of discharge. 
- He may benefit from consideration of further renal loss workup 
should he have persistent low electrolyte values.
- patient has urine culture pending at the time of discharge 
which should be followed-up
# CODE: Full
# CONTACT: Girlfriend ___ ___, ___ (in ___) 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Ascorbic Acid Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Vasovagal Syncope
Hypokalemia
Hypomagnesemia
Hypophosphetemia

SECONDARY DIAGNOSIS: 
None

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital after you experienced an 
episode of fainting in the setting of attending an orthopedics 
appointment. This was just one of several reported incidents you 
had of fainting over the past few years. You were evaluated in 
the hospital with blood work, electrocardiography, heart 
monitoring, and imaging, and were found to have a characteristic 
form of fainting called vasovagal syncope (neurocardiogenic 
syncope). This refers to a nervous system related reflex by 
which the heart rate can slow and cause you to feel woozy and 
faint. We performed an echocardiography which showed your heart 
function seems normal. Just to be sure there is likely no 
arrhythmia at home that could be contributing to your symptoms, 
we will mail you a ___ monitor, which will help 
record any abnormal rhythms you have after you leave the 
hospital. 

Please call your new PCP at ___ to register. After 
you register, please call Dr. ___ office at ___ and 
let them know that you are registered. After that, Dr. ___ will 
arrange for you to receive your ___ of Hearts monitor in the 
mail. Her office will also set up a follow up appointment with 
her. 

You were also found to have low electrolytes while in the 
hospital. We think a lot of this is potentially due to your 
irregular dietary habits. It's important to be careful and 
continue eating at least 3 meals a day, as low electrolytes can 
predispose your heart to abnormal and potentially dangerous 
heart rhythms. You should also take a multivitamin with minerals 
daily to keep your electrolytes in a normal range. 

You should also call ___ to set up a primary 
care appointment. You should have an appointment in the next two 
weeks to check your electrolytes. 

It was a pleasure to be involved with your care at ___,
your ___ Cardiology Team.

 
Followup Instructions:
___